US08471005B2
Into a 30 mL vial, Palladium Acetate (0.010 g, 0.000046 mol) and Triphenylphosphine (0.030 g, 0.00011 mol) were added and purged under an atmosphere of Nitrogen for 5 minutes 1,4-Dioxane (1.00 mL, 0.0128 mol) was added and stirred for 10 minutes. (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[2-methoxy-4-(4-methyl-piperazin-1-yl)-phenyl]-amine (0.0952 g, 0.000228 mol), 2-methoxybenzeneboronic acid (0.0694 g, 0.000456 mol), N,N-Dimethylformamide (2.20 mL, 0.0284 mol) and 1.50 M of Sodium carbonate in Water (1.00 mL, 0.00150 mol) were added, respectively. The reaction mixture was heated at 80° C. overnight. The solvent was removed under vacuum. The solid was washed with DCM. The organic was removed under vacuum. The reaction was purified via ISCO column chromatography with DCM and methanol as eluant (0 to 10% methanol). The collected fraction afforded a solid. The solid was washed with 10% Et2O/hexane to give [2-Methoxy-4-(4-methyl-piperazin-1-yl)-phenyl]-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine a yellow solid (38 mg, 37%). LCMS (E/I+) 445.19 (M+H). NMR 1H (DSMO-d6)-8.88 (s, 1H), 7.83 (t, 2H, J=8.76 Hz), 7.48 (s, 1H), 7.43 (t, 1H, J=7.16 Hz), 7.19 (d, 1H, J=8.36 Hz), 7.08 (t, 1H, J=7.52 Hz), 6.94 (d, 1H, J=4.68 Hz), 6.90 (d, 1H, J=4.60 Hz), 6.63 (s, 1H), 6.35 (d, 1H, J=9.04 Hz), 3.84 (s, 3H), 3.78 (s, 3H), 3.05-3.16 (bm, 4H), 2.46 (bs, 4H), 2.23 (s, 3H).

reactant | Triphenylphosphine | 0.00011 mol, 0.030 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,4-Dioxane | 0.0128 mol, 1.00 mL | O1CCOCC1 | C4H8O2
reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[2-methoxy-4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.000228 mol, 0.0952 g | BrC1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)N2CCN(CC2)C)OC | C18H21BrN6O
reactant | 2-methoxybenzeneboronic acid | 0.000456 mol, 0.0694 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | N,N-Dimethylformamide | 0.0284 mol, 2.20 mL | CN(C=O)C | C3H7NO
reactant | Sodium carbonate | 1.50 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | Water | 0.00150 mol, 1.00 mL | O | H2O
catalyst | Palladium Acetate | 0.000046 mol, 0.010 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | [2-Methoxy-4-(4-methyl-piperazin-1-yl)-phenyl]-[7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | COC1=C(C=CC(=C1)N1CCN(CC1)C)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C25H28N6O2
